US04859684
(a-1) To a stirred solution of 1.4 parts of ethyl glycine hydrochloride in 10 parts of water was added a solution of 1.7 parts of 4-fluoro-3-nitrobenzaldehyde in 8 parts of ethanol. Then there were added 1.76 parts of sodium hydrogen carbonate and stirring at room temperature was continued for 48 hours. The precipitated product was filtered off, washed successively with water, ethanol and 2,2'-oxybispropane, and dried, yielding 2 parts (79%) of ethyl N-(4-formyl-2-nitrophenyl)-glycine; mp. 90° C. (int. 29).

reactant | ethyl glycine hydrochloride | Cl.C(C)NCC(=O)O
reactant | water | O | H2O
reactant | 4-fluoro-3-nitrobenzaldehyde | FC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl N-(4-formyl-2-nitrophenyl)-glycine | 79% | C(C)N(CC(=O)O)C1=C(C=C(C=C1)C=O)[N+](=O)[O-] | C11H12N2O5
